US08431563B2
In a 50 mL round bottomed flask a mixture of 2-(4-(4-((4-nitro-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (80 mg, 0.154 mmol), ammonium formate (48.6 mg, 0.770 mmol, Sigma-Aldrich, St. Louis, Mo.), and 10% Pd/C (1.639 mg, 0.015 mmol) in EtOH (10 mL) was stirring under an atmosphere of H2 (1 atm) for 18 h. Afterwards, the reaction mixture was filtered through a plug of Celite® (diatomaceous earth), and the filtrate was concentrated to give the crude product. The crude product was dissolved in CH2Cl2 and filtered through a plug of silica gel. The filtrate was concentrated to give 2-(4-(4-((4-amino-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (23 mg).

reactant | 2-(4-(4-((4-nitro-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.154 mmol, 80 mg | [N+](=O)([O-])C=1C=C(SC1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C17H15F6N3O5S2
reactant | ammonium formate | 0.770 mmol, 48.6 mg | C(=O)[O-].[NH4+]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 0.015 mmol, 1.639 mg | [Pd] | Pd
product | 2-(4-(4-((4-amino-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 23 mg | NC=1C=C(SC1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C17H17F6N3O3S2
